US07087612B2
[7-(3-Fluoro-benzyloxy)-2-isopropyl-4-oxo-4H-quinazolin-3-yl]-acetonitrile
To a mixture of 2-[7-(3-fluoro-benzyloxy)-2-isopropyl-4-oxo-4H-quinazolin-3-yl]-acetamide (50 mg, 0.14 mmol) in dimethylformamide (0.5 mL), dichloromethane (2 mL) was added N-ethyl-N,N-diispropylamine (26.2 mg, 0.2 mmol) and the resulting mixture cooled to −78° C. Then trifluorosulfonic anhydride (49.6 mg, 0.18 mmol) was added and the reaction mixture allowed to warm up to rt over 30 min. The resulting mixture was then poured into sodium hydrogen carbonate (sat. 5 mL), and the mixture extracted with diethylether (3×5 mL). The combined extracts were then washed with brine, dried and evaporated to leave a light yellow solid. Purification by chromatography (SiO2, EtOAc:heptane 1:1 to 85:15) afforded the title compound (26 mg, 55%) as a white solid. MS: m/e=352.2 (M+H+).

reactant | 2-[7-(3-fluoro-benzyloxy)-2-isopropyl-4-oxo-4H-quinazolin-3-yl]-acetamide | 0.14 mmol, 50 mg | FC=1C=C(COC2=CC=C3C(N(C(=NC3=C2)C(C)C)CC(=O)N)=O)C=CC1 | C20H20FN3O3
reactant | sodium hydrogen carbonate | 5 mL | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | [7-(3-Fluoro-benzyloxy)-2-isopropyl-4-oxo-4H-quinazolin-3-yl]-acetonitrile | 26 mg, 55% | FC=1C=C(COC2=CC=C3C(N(C(=NC3=C2)C(C)C)CC#N)=O)C=CC1 | C20H18FN3O2
